US08440608B2
104.4 g (1.20 mol) of morpholine and 210.0 g of cyclohexane are placed in a one-liter round-bottomed flask with a magnetic stirrer, a water separator, a thermometer and an addition funnel. The mixture is brought to a temperature of 65° C. to 70° C. 142.0 g (0.99 mol) of nonanal are added over four hours. The boiling point (80° C.-84° C. at the start of the addition and then 87° C. toward the end of the operation) is thus rapidly obtained. The water formed during the reaction is recovered in a water separator. The reaction medium is then cooled and the cyclohexane and the excess morpholine are distilled off under reduced pressure (about 4400 Pa), without exceeding 60° C. in the bulk. The mixture is cooled to 40° C. and returned to ambient pressure, and 1.5 g of potassium hydroxide in 20 ml of methanol are added to the 4-non-1(E/Z)-enylmorpholine. The mixture is brought to 50° C. and 85.5 g (0.99 mol) of methyl acrylate are added over one hour. The mixture is stirred for fifteen hours at 50° C., and then a further 43.0 g (0.50 mol) of methyl acrylate are added over one hour thirty minutes. After the end of the addition, the mixture is stirred for a further twelve hours at 60° C. The temperature of the reaction medium is increased to 80° C. An aqueous solution of acetic acid buffered to pH 4 (195.7 g of acetic acid, 71.7 g of sodium acetate trihydrate and 232.6 g of water) are added dropwise over two hours at this temperature. Stirring is continued for a further four hours. The phases are allowed to settle and are separated. The aqueous phase is extracted twice with 150 ml of toluene. The organic phases are combined and are washed three times with 100 ml of water and once with 100 ml of brine. The resulting organic phase is dried over magnesium sulfate. After evaporating off the solvent under reduced pressure (3990 Pa), without exceeding 50° C. in the bulk, 237.0 g of crude oxo ester are obtained, and are blanched under high vacuum (70° C. to 120° C. at 93 Pa) to give 152.1 g of 91.0% methyl 4-formylundecanoate (yield: 0.61 mol; 61%).

reactant | morpholine | 1.20 mol, 104.4 g | N1CCOCC1 | C4H9NO
reactant | nonanal | 0.99 mol, 142.0 g | C(CCCCCCCC)=O | C9H18O
reactant | methyl acrylate | 0.99 mol, 85.5 g | C(C=C)(=O)OC | C4H6O2
reactant | methyl acrylate | 0.50 mol, 43.0 g | C(C=C)(=O)OC | C4H6O2
reactant | sodium acetate trihydrate | 71.7 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | water | 232.6 g | O | H2O
solvent | acetic acid | 195.7 g | C(C)(=O)O | C2H4O2
solvent | cyclohexane | 210.0 g | C1CCCCC1 | C6H12
product | methyl 4-formylundecanoate | yield: 0.61 mol, 152.1 g | C(=O)C(CCC(=O)OC)CCCCCCC | C13H24O3
